US04824604
N-lauroyl-N-(3-hydroxypropyl)glycine was added to a predetermined amount of water, an equimolar amount of triethanolamine was added for neutralization, followed by sufficient agitation to obtain an aqueous solution of N-lauroyl-N-(3-hydroxypropyl)glycine triethanolamine salt.

reactant | N-lauroyl-N-(3-hydroxypropyl)glycine | C(CCCCCCCCCCC)(=O)N(CC(=O)O)CCCO | C17H33NO4
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
solvent | water | O | H2O
product | N-lauroyl-N-(3-hydroxypropyl)glycine triethanolamine salt | N(CCO)(CCO)CCO.C(CCCCCCCCCCC)(=O)N(CC(=O)O)CCCO | InChI=1S/C17H33NO4.C6H15NO3/c1-2-3-4-5-6-7-8-9-10-12-16(20)18(13-11-14-19)15-17(21)22;8-4-1-7(2-5-9)3-6-10/h19H,2-15H2,1H3,(H,21,22);8-10H,1-6H2
